US09340549B2
Dess-Martin periodinane (500 mL, 0.3 M in DCM, 0.15 mol) was added over 15 minutes to an ice-cooled solution of (S)-3-(4-hydroxycyclohexyl)-5,5-dimethyl-4-phenyloxazolidin-2-one (39.5 g, 0.136 mol) in DCM (1 L). The resulting mixture was stirred at room temperature under nitrogen for 22.5 hours. Saturated aqueous Na2S2O3 (300 mL) and saturated aqueous NaHCO3 (300 mL) were added, and the mixture was stirred at room temperature for 1 hour. The organic layer was separated, washed with brine (300 mL), dried, filtered and concentrated. The resulting residue was purified by column chromatography (eluting with 100% DCM to DCM/MeOH=100:1) to afford (S)-5,5-dimethyl-3-(4-oxocyclohexyl)-4-phenyloxazolidin-2-one (25 g, 64%). 1H NMR (300 MHz, d6-DMSO) δ ppm 7.45-7.20 (m, 5H), 4.67 (s, 1H), 4.0-3.90 (m, 1H), 2.60-2.35 (m, 2H), 2.25-1.95 (m, 4H), 1.85-1.70 (m, 1H), 1.55-1.40 (m, 1H), 1.47 (s, 3H), 0.80 (s, 3H). m/z (ESI) 288 (M+H)+.

reactant | Dess-Martin periodinane | 0.15 mol, 0.3 M, 500 mL | CC(=O)OI1(C=2C=CC=CC2C(=O)O1)(OC(=O)C)OC(=O)C | C13H13IO8
reactant | (S)-3-(4-hydroxycyclohexyl)-5,5-dimethyl-4-phenyloxazolidin-2-one | 0.136 mol, 39.5 g | OC1CCC(CC1)N1C(OC([C@@H]1C1=CC=CC=C1)(C)C)=O | C17H23NO3
reactant | Na2S2O3 | 300 mL | [O-]S(=O)(=S)[O-].[Na+].[Na+]
reactant | NaHCO3 | 300 mL | C(=O)(O)[O-].[Na+]
solvent | DCM | 1 L | C(Cl)Cl | CH2Cl2
product | (S)-5,5-dimethyl-3-(4-oxocyclohexyl)-4-phenyloxazolidin-2-one | 25 g, 64% | CC1([C@@H](N(C(O1)=O)C1CCC(CC1)=O)C1=CC=CC=C1)C | C17H21NO3
